Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2]([O:3][N:7]([C:6](=[O:5])[H:12])[H:13])=[C:4]([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],12.564049566853114
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[O+:4][C-:2]([C:3]([H:11])([H:12])[H:13])[H:10])[H:14])([H:7])([H:8])[H:9],93.80677589939859
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])[O:6][H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],1.4954776755256063
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[C:2](=[C:3]=[O:4])([H:8])[H:9].[O:1]([C:5]#[N:6])[H:7],92.4084006726384
[C:1]([O:6]/[C:5](=[N:4]/[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],66.93445043193721
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[C:5](=[O:6])([H:10])[H:11].[N:1]1([H:7])[C:2][C:3]([H:8])([H:9])[O:4]1,115.981292755938
[O:1]([C:2][N:6]([N:5]1[N:3]=[C:4]1[H:8])[H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],18.072127334290997
[C:1]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[C:2](=[O:3])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],64.88122963574449
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[C:2]1(=[C:5]=[O:6])[C:3]([H:11])([H:12])[O:4]1,108.109815978069
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:7]([C@:2]12[C:3]([H:8])([H:9])[O:4][C@@:5]1([H:10])[C:6]2([H:11])[H:12])[H:13],81.4808933564418
[C:1]([C:2]([H:9])([H:10])[H:16])([C:3]1=[C:6]([H:15])[C:5]([H:13])([H:14])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],75.94232400007455
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[C:3]1([H:11])=[C:4]([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15].[O:1]([C:2]([H:9])([H:10])[H:12])[H:8],89.5382215341568
[C:1]([C@@:2]1([H:11])[C@:3]([O:4][N:7]([H:13])[H:14])([H:12])[C:5]1=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],25.863948685640395
[C:1]([N:7]=[C:6]=[C:2]([O:3][H:11])[C:4]([N:5]([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],47.6860979423964
[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6]>>[N:4]#[N:5].[O:1]=[C:2]=[N:3][H:6],28.1117866881611
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:10])[H:11].[H:7][H:12]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],33.808139545092196
[N:1](=[C:2]=[C:7]([C:6](=[N+:3]=[N-:4])[O:5][H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],45.7122428965058
[C:3](#[N:4])[C:5]#[N:6].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],69.25461802229297
[N-:1]([C+:2]([O-:3])[C+:5]1[C:4]([H:9])([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],38.61890997682835
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6][N:7]1[H:9],68.7599463817633
[N:1]([C:6]1=[N:7][C@@:2]1([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],54.68863508561191
[C:1]([C:2](=[O:3])[C:4](=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],58.0166783360768
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1]1[C@:2]([C:3]([O:4]/[C:5](=[N:6]\[H:8])[H:12])([H:10])[H:11])([H:9])[C:7]1([H:13])[H:14],75.6717185096762
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[C:4](=[N:5][H:13])([H:11])[H:12].[O:1]([C:2]([C+:3]=[C:6]([O-:7])[H:14])([H:9])[H:10])[H:8],64.992982319536
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[C:6]=[N:7][H:13])[H:12])([H:10])[H:11])[H:9])\[H:8],80.1367068300909
